US05804593
Preparation of N-hydroxy-2(R)-[(benzenesulfonyl)amino]-3-methyl butanamide
A suspension of N-benzyloxy-2(R)-[(benzenesulfonyl)amino]-3-methyl butanamide (100 mg, 0.280 mmol) and Pearlman's catalyst (25 mg) in MeOH (10 mL) is hydrogenated at 1 atmosphere for 3 hours. The mixture is filtered through celite, and the filtrate is concentrated. The desired material is crystallized from EtOAc/pentane to give 61 mg (80%) of the title compound as a crystalline solid. mp 154°-155° C.; IR (mineral oil) 3268, 2925, 2954, 2881, 2855, 1636, 1449, 1336, 1165, 694 cm-1; 1H NMR (300 MHz, DMSO-d6) δ10.53, 8.83, 7.98, 7.76, 7.50-7.65, 3.28, 1.65-1.85, 0.74, 0.70; MS (EI) m/z 272; Analysis: C, 48.37; H, 6.07; N, 10.14.

reactant | N-benzyloxy-2(R)-[(benzenesulfonyl)amino]-3-methyl butanamide | 0.280 mmol, 100 mg | C(C1=CC=CC=C1)ONC([C@@H](C(C)C)NS(=O)(=O)C1=CC=CC=C1)=O | C18H22N2O4S
catalyst | Pearlman's catalyst | 25 mg | [OH-].[OH-].[Pd+2]
solvent | MeOH | 10 mL | CO | CH4O
product | N-hydroxy-2(R)-[(benzenesulfonyl)amino]-3-methyl butanamide | 61 mg, 80% | ONC([C@@H](C(C)C)NS(=O)(=O)C1=CC=CC=C1)=O | C11H16N2O4S
